US03987160
5-tert-Butyl-2-hydroxybenzonitrile (50 g; prepared as described by F. B. Dains and I. R. Rothrock, J. Amer. Chem., 1894 16, 635) was added to a solution of sodium (7.43 g.) in anhydrous ethanol (150 ml.), followed by methyl iodide (50 ml.). The mixture was refluxed for 3 hours, during which time a further quantity of methyl iodide (20 ml.) was added in portions. The mixture was evaporated in vacuo, and the residue treated with water (500 ml.). The oil obtained was extracted with diethyl ether, and the aqueous layer further extracted twice with diethyl ether. The combined extracts were dried and evaporated, and the residual oil was distilled in vacuo to give 5-tert-butyl-2-methoxybenzonitrile (50.3 g.), b.p. 138°-140° C./0.2 mm.Hg.

reactant | 5-tert-Butyl-2-hydroxybenzonitrile | 50 g | C(C)(C)(C)C=1C=CC(=C(C#N)C1)O | C11H13NO
reactant | sodium | 7.43 g | [Na] | Na
reactant | methyl iodide | 50 ml | CI | CH3I
reactant | methyl iodide | 20 ml | CI | CH3I
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-tert-butyl-2-methoxybenzonitrile | 50.3 g | C(C)(C)(C)C=1C=CC(=C(C#N)C1)OC | C12H15NO
